US05072038
When 5-chloro-2,3,4-trifluorobenzoyl fluoride is briefly treated with aqueous sodium hydroxide solution then, after acidification and drying, crystals of 5-chloro-2,3,4-trifluorobenzoic acid are obtained, melting point: 123°-4° C.

reactant | 5-chloro-2,3,4-trifluorobenzoyl fluoride | ClC=1C(=C(C(=C(C(=O)F)C1)F)F)F | C7HClF4O
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-chloro-2,3,4-trifluorobenzoic acid | ClC=1C(=C(C(=C(C(=O)O)C1)F)F)F | C7H2ClF3O2
